US06174877B1
3-[2-(4-Toluenesulfonyloxy)propyl]pyridazine
1-(3-Pyridazinyl)-2-propanol (1.40 g) was dissolved in dichloromethane (10 ml). To the solution were added, at 0° C., pyridine (1.63 ml) and 4-toluenesulfonyl chloride (2.89 g), successively. The mixture was stirred for 19 hours at the same temperature, to which was added water (10 ml). The mixture was stirred for 2 hours, to which was added ethyl acetate (80 ml). The organic layer was separated and washed with a saturated aqueous saline solution and dried over anhydrous sodium sulfate, followed by concentration under reduced pressure. The concentrate was purified by means of a silica gel column chromatography (developing solvent: ethyl acetate) to afford the title compound (1.65 g).

reactant | 1-(3-Pyridazinyl)-2-propanol | 1.40 g | N1=NC(=CC=C1)CC(C)O | C7H10N2O
reactant | pyridine | 1.63 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-toluenesulfonyl chloride | 2.89 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | 10 ml | O | H2O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
product | 3-[2-(4-Toluenesulfonyloxy)propyl]pyridazine | 1.65 g | C1(=CC=C(C=C1)S(=O)(=O)OC(CC=1N=NC=CC1)C)C | C14H16N2O3S
